US08536185B2
Preparation of 2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanol
To a room temperature solution of (±)-2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanone (18 mg, 0.04 mmol) in tetrahydrofuran (1 mL) was added borane-tetrahydrofuran (1M, 0.13 mL, 0.13 mmol). The reaction mixture was heated at 65° C. for four hours, cooled, treated carefully with 6 mL of 6N HCl and 2 mL of ethanol and heated at 65° C. for one hour. The cooled reaction mixture was extracted four times with ethyl acetate and the organic phase was dried over magnesium sulfate, filtered, and rotovapped. The residue was chromatographed on silica (4 g) and eluted with 1:20:80 to 5:30:70 triethylamine-isopropanol-hexanes to give the title compound as a bright yellow solid white solid; Rf 0.15 with 1:20:80 v/v triethylamine-isopropanol-hexanes; MS (ESI+) m/z 404 (M+1); H-PGDS FPBA IC50: 10 μM.

reactant | (±)-2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanone | 0.04 mmol, 18 mg | FC(C(=O)N1CC(CCC1)C=1NC=C(N1)C=1C=NC(=NC1)C1=CC=CC=C1)(F)F | C20H18F3N5O
reactant | borane tetrahydrofuran | 0.13 mmol, 1M, 0.13 mL | B.O1CCCC1
reactant | HCl | 6N, 6 mL | Cl | ClH
reactant | ethanol | 2 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(3-(4-(2-phenylpyrimidin-5-yl)-1H-imidazol-2-yl)piperidin-1-yl)ethanol | FC(C(O)N1CC(CCC1)C=1NC=C(N1)C=1C=NC(=NC1)C1=CC=CC=C1)(F)F | C20H20F3N5O
